Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been stressed and concerning people I live and work with"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with a history of psychosis, no 
current outpatient providers or medications, who was brought to 
the ___ after his roommates were concerned for disorganized 
behavior.

On evaluation, patient reports he is only here because others 
were concerned, but believes he has no psychiatric problems. He 
says that he was supposed to go to ___ for a wedding, but went 
to ___ to get a visa and was denied one because he didn't have 
proof of local housing arrangements. Says that when he went back 
to his research lab yesterday, people were surprised to see him; 
then he woke up this morning to his roommate saying that campus 
police there to take him to the hospital. He wonders if people 
were concerned because he has been "isolating himself" He says 
he isolates himself from his colleagues because they all only 
speak ___ around him, he feels like they just belittle him, 
steal his lab and office supplies, and sabotage his experiments. 


We had heard a report that there had been a complaint about him 
exposing his genitals to other people.  He categorically denies 
this, and was surprised to hear it (though notably, ___ 
physicians also asked him about this report), telling me no one 
has mentioned that to him yet.  

Spoke with on-call clinician at ___. They don't have a 
record of him being called in today, they are thinking that ___ 
may have just taken him right to the hospital. Walked in in 
___  no record of why he came in in their system. Has been 
seen there off and on because "people are worried for him". 
Admitted to ___ in ___, reported SI but vague about 
details. People seem to be concerned for "mood lability" when 
they refer him; faculty report increasingly intense/emotionally 
labile at those times, to the point where other students start 
expressing concern.

Also spoke with ___ police ___ his 
roommate called saying that he was paranoid, acting strangely. 
He seemed confused, nervous. He was going around to people on 
the floor of the apartment building if they could look at his 
genitals to see if they are infected. Roommate says he has been 
secluding himself, shutting off of his phone so no one can talk 
to him. seems stressed about his research. Roommate says that 
patient's mother said that he needs to see a therapist. Reported 
that he took medications for anxiety and an unknown heart 
condition. 

With patient's permission, spoke with his father, ___ 
(___): parents have noticed episodic behavior changes 
through time. Father is aware he ___ nicotine products and 
smokes marijuana intermittently but isn't aware of substance 
use. About a year ago, they came up to drive him to ___ ___, he 
was sending frequent text messages that were angry, atypical; 
hostile, hypersexual texts towards his mother. He also sent 
texts that said "Stop talking to my friends; they're in the 
house with you, I can see them there!".  had described meeting a 
stranger/homeless person who was "into music" and describing him 
like he was the devil, then was describing his father as god. 
Also reports that he was having auditory hallucinations at the 
time, saying he could "hear things that are going on in the 
WiFi". With  Since leaving ___, texts can be disorganized, 
difficulty to understand, references to names of people they 
have never heard of as if they did know; they seem odd but not 
dangerous, so they tend to just shrug them off. They do also 
have normal conversations at times. there have been incidents of 
a lot of anger directed at his parents, but it's never quite 
clear why. He is aware that he has not been taking medications 
since his discharge, for one reason, he is a very good pianist 
and felt that the medications dulled this. They have been 
encouraging him to seek treatment, have been worried about his 
behavior interfering with his work/school, but since the 
hospitalization haven't been concerned for his safety. 

More recently, ___ reports ___ also told parents about the 
trip to ___ to get a visa to go to ___, at some point called 
his sister in the middle of the night and was talking strangely. 
Apparently, he had gone to their home in ___ without telling 
them, then left; he then called his sister and asked her to 
drive him to ___, for unclear reasons. Parents asked 
him to come home; he came home, and as mother/sister tried to 
explain why he was being unreasonable, he suddenly became angry 
and exposed his genitals to his mother and sister, then later 
denied it to his father ("you can't prove it!"). These issues, 
in general, have been slowly worsening over the past few years. 

Reviewed patient's discharge summary from ___ dated 
/___, Dr. ___. Reported history of ADHD, social 
anxiety, earlier use of cocaine/hallucinogens (not in several 
months). Admitted for "agitation, thought disorganization" and 
paranoid ideation. He reported that others could read his 
thoughts, described "elaborate systems/algorithms for 
interacting with people in relationships". The history they 
record matches with that given by his father as above. started 
on risperidone 2 mg HS. At discharge he reported trusting his 
parents, comfortable with meds "it gets rid of all the 
background thinking and keeps your brain functioning". 

When I returned to the patient with this collateral information, 
he categorically denied all of it. He said his father is only 
worried because "he's my father, of course he worries about his 
son". He says that none of the reports could possibly be true 
because "I don't talk to my dad, I don't talk to my roommate, I 
don't talk to anyone", and talks about people conspiring against 
him to prevent him from finishing his PhD. 

Of note, our pharmacy record system indicated that he filled 
prescriptions for Truvada and Raltegravir in ___ within the 
past cuple of weeks. Patient says he sought post-exposure 
propylaxis "Just to be safe", saying that he feels he could have 
been exposed to a needle stick "without my consent" or "I could 
have stepped on a nail and not noticed it"; he denies any recent 
sexual encounters or use of IV drugs. 

Course in Emergency Department (including behavior, medications 
given): pt was in ___ for only several hours. During this time he 
remained in appropriate behavioral control and received no 
medications. 

On admission to the unit, pt is ambivalent about needing 
treatment.  States that he thinks he's here due to a number of 
misunderstandings about his plans to travel to ___ and work on 
his PhD.  However, he does note that he'd like to work with his 
treatment team to arrange outpatient services and "get my ducks 
in a row" and "quell everyone's concerns."  Reports feeling 
"high strung" over the past couple weeks.  Last weekend, while 
he was staying with a friend in ___, he woke up and smelled 
urine on his jacket and then became concerned that he might have 
been sexually assaulted. He also reported being concerned about 
a toe infection, concerns that were relieved after he asked 
medical students in his building to examine him (prior reports 
indicate he was exposing his genitals). Also endorses worrying a 
lot about the health of his sister, a ___ student at ___- 
though he notes that he doesn't know if she has any specific 
medical issues.  He reiterated concerns about his lab- feeling 
like he's excluded by lab-mates who are all ___ speakers.  
He also reported difficulties with his roommates, whom he 
describes as having frequent mood swings and treating him 
unfairly and taking things from him.  

Of his mood, he states "my temperament is normal."  He reports 
sleeping and eating normally.  He denies AH, VH, any episodes 
concerning for mania, SI, and HI. 

Details of past history per Dr. ___ note, reviewed 
with pt and updated as appropriate.
 
Past Medical History:
Past psychiatric history:
Sx: agitation, thought disorganization, paranoid ideation, 
performance anxiety (e.g, teaching, presenting research)
Dx: diagnosed with ADHD in college, has had trials of 
stimulants.
Hospitalizations: One hospitalization at ___ in ___- 6 days 
for psychosis
Med trials: risperidone, propranolol, Adderall
SIB/SI: no history of self injury or suicide attempts
Trauma: denies
.
Past medical history:
none
 
Social History:
___
Family History:
Family psychiatric history:
Patient and his father report no known history of mental illness 
in the family. 

 
Physical Exam:
Physical Examination:
VS:  BP: 120/74  HR: 85  temp: 98.1 resp: 18 O2 sat: 99% RA
General- young white male in NAD
Skin- warm and well perfused
HEENT- normocephalic atraumatic
Lungs- CTAB, no wheezes, rales, rhonchi
CV- RRR, no murmurs, rubs, gallops
Abdomen: normoactive bowel sounds; soft non-tender, 
non-distended
Extremities- moves all 4 spontaneously
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: pupils symmetric and responsive to light and
accommodation
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
 
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex

Coordination:
     Finger-nose-finger- intact, no dysmetria
Gait/Romberg: Good initiation.  Narrow-based, normal stride and
arm swing. 

Neuropsychiatric Examination:
  *Appearance: young male, in untied hospital ___
  ___: oddly related, suspicious, eyes darting rapidly in
all directions when anxious, some PMA (leg tapping) when nervous
(E.g., discussing legal paperwork)
  *Mood and Affect: "my temperament is normal"/ blunted
  *Thought process: linear, associations intact
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies AH, VH, SI, HI; paranoia; appears to
be possibly responding to internal stimuli
  *Judgment and Insight: poor/poor- difficulty articulating why
people have been concerned about him, denying collateral reports
of concerning behaviors
  Cognition:
    *Attention, *orientation, and executive function: AAO x3,
correctly spells WORLD b/w
    *Memory: ___
    *Fund of knowledge: past 4 presidents, ___ past VPs
    Calculations: intact
    *Speech: regular rate and rhythm
    *Language: fluent ___ speaker

 
Pertinent Results:
___ 02:06PM BLOOD WBC-4.3 RBC-4.95 Hgb-14.9 Hct-45.0 MCV-91 
MCH-30.1 MCHC-33.1 RDW-11.9 RDWSD-39.0 Plt ___
___ 02:06PM BLOOD Neuts-57.6 ___ Monos-10.3 Eos-1.6 
Baso-0.7 Im ___ AbsNeut-2.47 AbsLymp-1.27 AbsMono-0.44 
AbsEos-0.07 AbsBaso-0.03
.
___ 02:06PM BLOOD Glucose-120* UreaN-10 Creat-0.9 Na-143 
K-4.7 Cl-105 HCO3-25 AnGap-13
.
___ 09:30AM BLOOD ALT-27 AST-24 LD(LDH)-185 AlkPhos-83 
TotBili-0.4
___ 09:30AM BLOOD Albumin-5.1
.
___ 07:49AM BLOOD Cholest-114
___ 07:49AM BLOOD Triglyc-125 HDL-36* CHOL/HD-3.2 
LDLcalc-53
___ 07:49AM BLOOD %HbA1c-5.2 eAG-103
.
___ 07:49AM BLOOD TSH-2.9
.
___ 09:30AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 09:30AM BLOOD HCV Ab-NEG
___ 09:30AM BLOOD Trep Ab-NEG
___ 07:49AM BLOOD Trep Ab-NEG
___ 09:30AM BLOOD HIV Ab-NEG
___ 06:19PM URINE CT-NEG NG-NEG
.
___ 02:06PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
.
___ 04:20PM URINE Color-Yellow Appear-Cloudy* Sp ___
___ 04:20PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 04:20PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 04:20PM URINE AmorphX-MOD*
___ 04:20PM URINE Mucous-OCC*
___ 4:20 pm URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
The patient declined to sign a conditional voluntary agreement 
and was admitted on a ___, which expired on ___.  At 
that time the patient was deemed to be at risk of harm to 
self/others due to disorganized behavior and paranoia, so a 
Section ___ was filed with the district court on ___. 
Court hearing was scheduled for ___ and patient met with an 
attorney prior to this hearing, but patient was ultimately 
deemed appropriate for discharge prior to hearing. He was also 
placed on 15 minute checks status on admission and remained on 
that level of observation throughout. Patient remained unit 
restricted given his opposition to hospitalization.
.
2. PSYCHIATRIC:
# Unspecified psychotic disorder, r/o cannabis-induced psychosis
Patient is a ___ with cannabis use disorder and one previous 
psychiatric hospitalization for agitation, disorganized 
behavior, auditory hallucinations one year ago. 
.
The patient reported that since his last psychiatric admission 
one year ago, he had been suspicious of his roommates, lab 
partners, friends and mother. The patient's delusions have 
central themes of xenophobia, cleanliness, persecutory, and drug 
use. The patient believed that his roommates, who are ___, 
are selling opiates and heroin, mistreat him because he is 
___, and go through his belongings. Additionally, the 
patient believed that his lab partners, who are ___, were 
ruining his experiments, telling him he will not become a great 
scientist and going through his belongings. The patient believed 
that his friend is now an IV drug user and may have injected him 
while he was sleeping on his friend's couch. Moreover, the 
patient transiently believed that his mother was fabricating 
information about him and had become a sex worker. 
.
Prior to admission, the patient noted that he has been socially 
withdrawn and focusing on completing his PhD program. 
.
The patient was brought to the ___ by ___ campus security, who 
were called by the patient's roommates. They were concerned 
because the patient was paranoid, confused and nervous and was 
acting strangely.  The patient had asked a medical student in 
his apartment building to examine his genitals because the 
patient thought they were infected. 

Differential diagnosis included primary psychotic disorder, 
affective disorder with psychotic features, paranoid personality 
disorder, and substance-induced psychosis. Given that patient is 
an active cannabis user, we were unable to rule out 
substance-induced psychosis in the absence of abstinence. 
However, prior hospitalization for psychosis, and prodromal 
period of social isolation and declined function in 
professional/academic engagements appear most consistent with a 
primary psychotic disorder. Patient did not endorse significant 
mood symptoms, either depressive or manic, but does feel that he 
suffered a personal crisis following his break-up several years 
ago. He did score high for mania scales (and notably low on 
psychosis, but also on some validity measures) on his 
personality assessment inventory. However, given the persistent 
nature of his delusions over the past year, outside of 
significant mood episode, appears less likely. Likewise, family 
denied long-standing bizarre behavior or paranoia until more 
recently, suggesting against a paranoid personality disorder. 

Patient agreed to treatment with antipsychotic medication 
(risperidone) and PRN benzodiazepine for anxiety. The patient 
tolerated this medication and gradually appeared less guarded 
and paranoid. He became increasingly capable of engaging in 
reality based conversation and became less preoccupied with 
perception that others were unduly targeting him (e.g. 
roommates, labmates). He gradually exhibited broader range of 
affect and was less oddly related compared to his presentation 
on admission. The patient himself also stated that he noticed 
the positive effects of risperidone, noting that that he felt 
more "level-headed." Additionally, the patient reflected that he 
"crossed a boundary" when he asked a medical student to examine 
his genitals. He appraised this action as inappropriate, and 
stated that he will not act in that manner (nor expose himself) 
in the future. Moreover, the patient reasoned that some of his 
thinking was not reality based (e.g potential needle stick by 
his friend), since there is no evidence to suggest that this 
occurred. Most importantly, the patient since the beginning of 
his admission has requested outpatient providers. He appeared 
motivated to continue to seek treatment, abstain from marijuana, 
and adhere to his medication regimen. 
.
We discussed the possibility of switching to risperidone to 
aripiprazole if the patient experienced sexual side effects or 
ongoing sedation. The patient did not report sexual side effects 
thus far. At time of discharge, patient exhibited mood congruent 
euthymic affect, linear thought process and thought content 
devoid of overtly delusional beliefs or paranoid ideation. He 
voiced future oriented plans (e.g. completing his dissertation, 
finding a new living arrangement) and denied any suicidal 
ideation or thoughts/urges to engage in self-harm or harm of 
others. 
.
3. SUBSTANCE USE DISORDERS:
#Cannabis use disorder 
Patient reported smoking one bowl of cannabis three times a 
week, in order to relax. Patient no longer runs long-distance, 
which he attributed to his smoking. He has had prior periods of 
abstinence, but these have not been sustained. Discussed the 
importance of abstaining from cannabis, as this likely 
exacerbates his paranoid thought process. Provided 
psychoeducation that cannabis can also trigger psychotic 
symptoms. The patient reported that he was planning to abstain 
from cannabis because he was unsure how it would interact with 
his risperidone. Additionally, he noted that cannabis is 
expensive and a hassle to obtain. He seems willing to attempt 
abstinence. 
.
#Tobacco use disorder 
Patient reported smoking 1 pack of cigarettes weekly and vaping 
nicotine via ___ once a week. He did have nicotine cravings 
during this hospitalization, and requested nicotine gum. 
.
4. MEDICAL
#Post Exposure Prophylaxis 
Pt was started on 2 anti-retroviral agents after reporting 
concern for possible needle exposure. We continued this 
medication given family collateral reports of risky sexual 
behavior, which patient denied. Patient requested STD testing 
and screened negative for HIV, HBV, HCV, RPR, GC/CT. Patient 
will continue PAML raltegravir 400mg po BID and Truvada 1 tab 
daily, and plans to discuss further need for continuation with 
PCP later this week. 

5. PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was often seen in 
the milieu and interacted with select peers. 
.
#COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient provided verbal permission to speak with patient's 
parents. (please see HPI). Prior to discharge, primary team 
conducted telephone conference with his parents to discuss 
discharge planning, aftercare and ongoing medication adherence; 
family remained in agreement. Parents commented that the patient 
sounded "much better" over the phone with them compared to when 
he was first admitted. Parents did not relay any ongoing safety 
concerns and were in support of discharge to oupatient level of 
care.
.
# INTERVENTIONS
- Medications: 
--lorazepam 0.5mg QHS PRN insomnia 
--risperidone 3mg po qhs 
--risperidone 1mg BID PRN for anxiety, agitation
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
-Inpatient psychological testing: scored higher than average on 
clinical scales MAN [Mania] at 72T and PAR [Paranoia] at 68T. 
- Coordination of aftercare:
-- Re-entry appointment/medication management at ___ and 
Counseling on ___
-- PCP ___ and behavioral specialist intake on ___
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
reality testing of delusions. 
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting risperidone. Additionally, we discussed the risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient. We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team. The patient appeared able to understand and 
consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to not be at 
an increased risk of harm to himself. Admission indicated for 
disorganized behavior and reported sexual exposure to others, 
demonstrating vulnerability within the community due to mental 
illness. Static risk factors include male sex, Caucasian 
ethnicity, prior psychiatric hospitalization, chronic cannabis 
use. Modifiable risk factors include disorganized thought and 
behavior, socially withdrawn, poor reality testing, lack of 
outpatient treaters, medication nonadherence, active cannabis 
use, and recent interpersonal stressors. These were addressed by 
initiating medication, counseling on substance use, and 
initiating outpatient ___ appointments. Protective factors 
include future orientation, life satisfaction, goal-directed 
behavior, and supportive relationships. Pt has consistently 
denied SI and has no known history of suicide attempts of SIB. 
Furthermore, patient demonstrated preserved capacity to engage 
in meaningful conversation about safety planning and what he 
would do in the event of worsening psychiatric symptoms (e.g. 
patient would call on-call clinician at NEU, call ___, or come 
to the emergency room). Overall, patient is no longer at acutely 
elevated risk of harm to self or others due to decompensated 
psychiatric symptoms and no longer requires involuntary 
psychiatric admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 5 mg PO DAILY: PRN performance anxiety 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Raltegravir 400 mg PO BID 

 
Discharge Medications:
1.  RisperiDONE 3 mg PO QHS 
RX *risperidone 3 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
3.  Propranolol 5 mg PO DAILY: PRN performance anxiety  
4.  Raltegravir 400 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Psychotic Disorder
Cannabis Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

VS: T 98.3, BP 128/83, HR 75, RR 16, O2 Sat 97%
MSE:
MENTAL STATUS:
 *Appearance: no acute distress; well-developed, appears stated
age, dressed in casual clothing. 
 *Behavior: calm, cooperative, forthcoming. Improved eye 
contact.
 *Mood and Affect: "fine" / odd affect, more reactive than prior
 *Thought process / *associations: linear, goal-direct, 
concrete;
no loosening of associations. 
 *Thought Content: no SI/HI or AVH. No delusions elicited today
 *Judgment and Insight: good / fair

 
Discharge Instructions:
You were hospitalized at ___ for disorganized behavior.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___